US07351738B2
Step 2: Benzyl (2R,3S)-3-amino-4-(3,5-difluorophenyl)-2-hydroxybutyl(3-methoxybenzyl)carbamate
To a 20 ml solution of [3-tert-butoxycarbonylamino-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxybenzyl)-carbamic acid benzyl ester (0.5 g, 0.9 mmol) at 0° C. was added trifluoroacetic acid (4 ml). The cold bath was removed and the mixture stirred at r.t. for 1 h. The solvent was removed in vacuo and the residue dissolved in 10% aq. NaHCO3, extracted with EtOAc (3×115 ml). The combined organic layers were dried over Na2SO4 and concentrated in vacuo to yield an amorphous solid. MS (ESI+) for C26H28F2N2O4 m/z 471.2 (M+H)+. The crude amine was used in subsequent steps without purification.

reactant | [3-tert-butoxycarbonylamino-4-(3,5-difluoro-phenyl)-2-hydroxy-butyl]-(3-methoxybenzyl)-carbamic acid benzyl ester | 0.9 mmol, 0.5 g | C(C1=CC=CC=C1)OC(N(CC1=CC(=CC=C1)OC)CC(C(CC1=CC(=CC(=C1)F)F)NC(=O)OC(C)(C)C)O)=O | C31H36F2N2O6
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Benzyl (2R,3S)-3-amino-4-(3,5-difluorophenyl)-2-hydroxybutyl(3-methoxybenzyl)carbamate | N[C@H]([C@@H](CN(C(OCC1=CC=CC=C1)=O)CC1=CC(=CC=C1)OC)O)CC1=CC(=CC(=C1)F)F | C26H28F2N2O4
